US05958942
ii) Synthesis of 4,5-dihydro-4-(1-trifluoroacetylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride
To a solution prepared by dissolving 540 mg (1.47 mM) of 4,5-dihydro-4-(1-trifluoroacetylpiperidin-4-yl-methyl)-3H-1,4,8b-triazaacenaphthylen-3-one in 10 ml of ethanol was added 0.24 ml (2.94 mM) of 12N-hydrochloric acid with stirring. The resulting solution was concentrated under reduced pressure and the precipitate that formed was recovered by filtration. The precipitate was rinsed with a small amount of ether and dried in vacuo to provide 330 mg (yield 55.7%) of the title compound as white solid.

reactant | 4,5-dihydro-4-(1-trifluoroacetylpiperidin-4-yl-methyl)-3H-1,4,8b-triazaacenaphthylen-3-one | 1.47 mM, 540 mg | FC(C(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C17H17F3N4O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(1-trifluoroacetylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride | 330 mg, yield 55.7% | Cl.FC(C(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | InChI=1S/C17H17F3N4O2.ClH/c18-17(19,20)16(26)22-6-4-11(5-7-22)9-23-10-12-2-1-3-14-21-8-13(15(23)25)24(12)14;/h1-3,8,11H,4-7,9-10H2;1H
